US07842685B2
Argon was bubbled through a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylpent-4-enyl)thiazolo[5,4-b]pyridine (1.02 g, 2.21 mmol) in 20 mL DMF for 5 min. The slurry was treated with sodium bis(trimethylsilyl)amide, 1.0M solution in tetrahydrofuran (2.66 mL, 2.66 mmol) rapidly via syringe, to give a dark blue solution. After 2 min, allyl iodide (0.306 mL, 3.32 mmol) was added via syringe, and the color gradually faded from blue to light brown. After 1 h, the reaction mixture was quenched with sat'd aq. NH4Cl and MTBE. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting oil was dissolved in DCM, adsorbed onto 7 g silica gel, dried, and purified by silica gel chromatography ISCO, 40 g, gradient, 0-50% EA/hexanes, to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylocta-1,7-dien-4-yl)thiazolo[5,4-b]pyridine as a light yellow foam MS (ESI) m/z: Calculated: 500.2; Observed: 501.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylpent-4-enyl)thiazolo[5,4-b]pyridine | 2.21 mmol, 1.02 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CCC=C)C1=CC=CC=C1)F | C27H25FN2O2S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 2.66 mmol, 2.66 mL | O1CCCC1 | C4H8O
reactant | allyl iodide | 3.32 mmol, 0.306 mL | C(C=C)I | C3H5I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylocta-1,7-dien-4-yl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CC=C)(CCC=C)C1=CC=CC=C1)F | C30H29FN2O2S
